US08629270B2
Benzyl(4aR,7aR)-2-(benzoylamino)-7a-(5-bromothiophen-2-yl)-4a,5,7,7a-tetrahydropyrrolo[3,4-d][1,3]thiazine-6(4H)-carboxylate
To a stirred clear and colorless solution of benzyl(4aR,7aR)-2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate (1.67 g, 3.50 mmol) in dimethylformamide (35 mL) at room temperature, under an atmosphere of nitrogen is added N-bromosuccinimide (747 mg, 4.20 mmol). The resulting pale yellow solution is stirred at room temperature for 50 minutes. The solution is diluted with ethyl acetate (150 mL) and washed with water (3×50 mL) and brine (50 mL). The organic phase is separated, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel flash chromatography eluting with a hexanes/ethyl acetate, gradient from 80:20 to 0:100, to give the title compound (1.79 g, 92%) as a white solid: ES/MS (m/z): 557.8 (M+H).

reactant | benzyl(4aR,7aR)-2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 3.50 mmol, 1.67 g | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C=2SC=CC2 | C25H23N3O3S2
reactant | N-bromosuccinimide | 4.20 mmol, 747 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | Benzyl(4aR,7aR)-2-(benzoylamino)-7a-(5-bromothiophen-2-yl)-4a,5,7,7a-tetrahydropyrrolo[3,4-d][1,3]thiazine-6(4H)-carboxylate | 1.79 g, 92% | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C=2SC(=CC2)Br | C25H22BrN3O3S2
